US04364951
5(a) (1S,5R,6R,7R)-6-[(E)-(3S,4RS)-3-Benzoyloxy-4-methyl-1-octenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one
In analogy to Example 1(a), 1.7 g of (1S,5R,6R,7R)-6-[(E)-(3S,4RS)-3-hydroxy-4-methyl-1-octenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one, 8 ml of pyridine, and 1 ml of benzoyl chloride yield 2.06 g of the dibenzoate as a colorless oil.

reactant | (1S,5R,6R,7R)-6-[(E)-(3S,4RS)-3-hydroxy-4-methyl-1-octenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | 1.7 g | O[C@H](/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)C(CCCC)C | C23H30O5
reactant | benzoyl chloride | 1 ml, yield 2.06 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | (1S,5R,6R,7R)-6-[(E)-(3S,4RS)-3-Benzoyloxy-4-methyl-1-octenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | C(C1=CC=CC=C1)(=O)O[C@H](/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)C(CCCC)C | C30H34O6
